US05763450
1.2 g of 3-aminophenyl-boric acid hemisulphate are suspended in 20 ml of water and treated with 3.2 ml of a 2N sodium hydroxide solution. The clear solution is treated with 1.67 g of methyl acrylate in 15 ml of dioxan. The mixture is heated to reflux under argon for 48 hrs. Subsequently, it is poured on to ice-water, extracted with ethyl acetate, dried, concentrated and the residue is chromatographed on silica gel with ethyl acetate/cyclohexane 1:1. 500 mg (35%) of not quite pure 3-(2-methoxycarbonylethylamino)-phenylboric acid are isolated as a brown resin. Mass spectrum (FAB): peaks: inter alia at 222 (M±H), 190 (8%).

reactant | 3-aminophenyl-boric acid hemisulphate | 1.2 g | S(=O)(=O)(O)O.NC=1C=C(C=CC1)OB(O)O.NC=1C=C(C=CC1)OB(O)O
reactant | sodium hydroxide | 2N | [OH-].[Na+]
reactant | methyl acrylate | 1.67 g | C(C=C)(=O)OC | C4H6O2
solvent | water | 20 ml | O | H2O
solvent | dioxan | 15 ml | O1CCOCC1 | C4H8O2
product | 3-(2-methoxycarbonylethylamino)-phenylboric acid | COC(=O)CCNC=1C=C(C=CC1)OB(O)O | C10H14BNO5
